US05792760
5-bromo-3-[1,2,3,6-tetrahydro-4-pyridinyl]-1H-indole
To a solution of 4.29 gm (77 mmol) potassium hydroxide in 50 ml methanol were added 5.0 gm (26 mmol) 5-bromoindole and 7.84 gm (51 mmol) 4piperidone .HCl.H2O and the reaction mixture was stirred for 18 hours at reflux under a nitrogen atmosphere. The reaction mixture was cooled to ambient temperature, diluted with 500 ml water and the mixture extracted well with dichloromethane. The combined organic extracts were washed with water followed by saturated aqueous sodium chloride and dried over sodium sulfate. The remaining organics were concentrated under reduced pressure to give 6.23 gm (86.5%) of the title compound as a yellow oil.

reactant | potassium hydroxide | 77 mmol, 4.29 gm | [OH-].[K+]
reactant | 5-bromoindole | 26 mmol, 5.0 gm | BrC=1C=C2C=CNC2=CC1 | C8H6BrN
reactant | 4piperidone | 51 mmol, 7.84 gm | N1CCC(CC1)=O | C5H9NO
reactant | HCl.H2O | Cl.O
solvent | methanol | 50 ml | CO | CH4O
solvent | water | 500 ml | O | H2O
product | 5-bromo-3-[1,2,3,6-tetrahydro-4-pyridinyl]-1H-indole | 6.23 gm, 86.5% | BrC=1C=C2C(=CNC2=CC1)C=1CCNCC1 | C13H13BrN2
